US04639441
p-Nitrobenzyl 2-(4-hydroxy-1,3-dithiolan-2-ylidene)-2-(4-methylthio-2-azetidinon-1-yl)acetate, a mixture of two isomers
A solution of butyllithium in hexane (2.4 ml, 1.63 mmoles/ml) was added to a solution of hexamethyldisilazene (740 μl) in tetrahydrofuran (12 ml) at room temperature, and then the mixture was stirred for 30 minutes. The solution was cooled to -78° C. and a solution of p-nitrobenzyl (4-methylthio-2-azetidinon-1-yl)acetate (620 mg) in tetrahydrofuran (5 ml) was added thereto, and the mixture was stirred for 10 minutes. Carbon disulphide (181 μl) was added to the resulting mixture, which was then stirred for 1 hour. A solution of iodoacetaldehyde (503 mg) in tetrahydrofuran was added to the solution, after which the mixture was stirred at -78° C. for 2 hours. The reaction mixture was then diluted with acetic acid (606 μl) and ethyl acetate and washed successively with an aqueous solution of sodium chloride, an aqueous solution of sodium bicarbonate and again an aqueous solution of sodium chloride and dried over anhydrous sodium sulphate. The solvent was distilled off under reduced pressure and the resulting residue was dissolved in tetrahydrofuran (4 ml). A drop of p-toluenesulphonic acid was added to the solution, which was then stirred at room temperature for 1.5 hours. The solvent was distilled off under reduced pressure and the resulting residue was purified by column chromatography (eluent: a 1:1 by volume mixture of benzene and ethyl acetate), to give 733 mg of the desired product as a foamy substance.

reactant | butyllithium | C(CCC)[Li]
reactant | p-nitrobenzyl (4-methylthio-2-azetidinon-1-yl)acetate | 620 mg | CSC1CC(N1CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H14N2O5S
reactant | Carbon disulphide | 181 μl | C(=S)=S | CS2
reactant | iodoacetaldehyde | 503 mg | ICC=O | C2H3IO
solvent | hexane | 1.63 mmoles/ml, 2.4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 606 μl | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | p-Nitrobenzyl 2-(4-hydroxy-1,3-dithiolan-2-ylidene)-2-(4-methylthio-2-azetidinon-1-yl)acetate | 733 mg | OC1SC(SC1)=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(CC1SC)=O | C16H16N2O6S3
